US04308026
400 mg of 5-(p-hydroxyphenyl)-5-phenylhydantoin in 4 ml of absolute ethanol was mixed with 140 mg of chloroacetic acid in 3.5 ml of 1 N-potassium hydroxide ethanol solution and then the mixture was refluxed for 22 hours. After cooled, the mixture was acidified with 0.33 ml of 5 N-hydrochloric acid, followed by distillation to remove the ethanol. Then 20 ml of distilled water was added and the pH value was adjusted to 1.0-2.0 with 5 N-hydrochloric acid. The solution obtained was extracted four times with 5 ml of ethyl acetate and dried with anhydrous sodium sulfate. Then it was dissolved in 2 ml of chloroform-methanol (2:1, v/v) solution and the solution was fractionated through a 2.0×40 cm silica gel column. The second fraction was collected. 5-(p-carboxymethoxyphenyl)-5-phenylhydantoin (CMPPH) was obtained by evaporating the second fraction and dried on calcium chloride under vacuo.

reactant | 5-(p-hydroxyphenyl)-5-phenylhydantoin | 400 mg | OC1=CC=C(C=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C15H12N2O3
reactant | chloroacetic acid | 140 mg | ClCC(=O)O | C2H3ClO2
reactant | potassium hydroxide ethanol | C(C)O.[OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-(p-carboxymethoxyphenyl)-5-phenylhydantoin | C(=O)(O)COC1=CC=C(C=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C17H14N2O5
